US04985444
A mixture of 2-phenylpyrazolo[1,5-a]pyridine-3-carbaldehyde (15.0 g), rhodanine (9.44 g), sodium acetate (16.6 g) and glacial acetic acid (90 ml) was refluxed for hours. Water(200 ml) and ethyl acetate (90 ml) were added to the reaction mixture and the resulting precipitates were collected by filtration to give 5-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)methylenerhodanine (cis and trans mixture) (19.8 g).

reactant | 2-phenylpyrazolo[1,5-a]pyridine-3-carbaldehyde | 15.0 g | C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1C=O | C14H10N2O
reactant | rhodanine | 9.44 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | sodium acetate | 16.6 g | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 90 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | 200 ml | O | H2O
product | 5-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)methylenerhodanine | 19.8 g | C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1C=C1C(NC(S1)=S)=O | C17H11N3OS2
